US05405861
In ethanol (3 ml) was dissolved (2R)-2',4'-difluoro-2-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)propiophenone (121 mg), to which was added pyridinium p-toluenesulfonate (25 mg), and the mixture was stirred for one hour at 55° C. The solvent was distilled off under reduced pressure, and the residue was dissolved in ethyl acetate (20 ml). The solution was washed with water and dried over anhydrous magnesium sulfate, followed by distilling off the solvent. The residue was purified by means of a silica gel chromatography (eluent: hexane-ethyl acetate=5:1) to give (2R)-2',4'-difluoro-2-hydroxypropiophenone (62 mg) as a pale yellow oily product. [α]D +68.7 (c=1.8 in chloroform)

reactant | (2R)-2',4'-difluoro-2-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)propiophenone | 121 mg | FC1=C(C=CC(=C1)F)C([C@@H](C)OC1OCCCC1)=O | C14H16F2O3
reactant | pyridinium p-toluenesulfonate | 25 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | (2R)-2',4'-difluoro-2-hydroxypropiophenone | 62 mg | FC1=C(C=CC(=C1)F)C([C@@H](C)O)=O | C9H8F2O2
